US06908913B2
Under ice cooling, 0.092 ml of acetic acid and 0.799 ml of a 1 M tetra-n-butylammonium fluoride/THF solution were added to a solution of 563 mg of 4-nitrobenzyl (1S,5R,6S)-2-[7-[5-(t-butyldimethylsilyloxymethyl)pyridin-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate in 8 ml of THF, and the mixture was stirred for 6 hr. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate, followed by washing with brine. The organic layer was dried over anhydrous magnesium sulfate, and the solvent was then removed by distillation. The residue was purified by column chromatography (dichloromethane:methanol=1:1) on Sephadex LH-20 to give 435 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-[5-(hydroxymethyl)pyridin-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate.

reactant | acetic acid | 0.092 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | 4-nitrobenzyl (1S,5R,6S)-2-[7-[5-(t-butyldimethylsilyloxymethyl)pyridin-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-6-((1R)-1-hydroxyethyl)-1-methyl-1-carbapen-2-em-3-carboxylate | 563 mg | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=NC1)C(=O)C=1N=CN2C1SC(=C2)C=2[C@@H]([C@H]1N(C2C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C([C@@H]1[C@@H](C)O)=O)C | C35H39N5O8SSi
reactant | Water | O | H2O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-2-[7-[5-(hydroxymethyl)pyridin-3-yl]carbonylimidazo[5,1-b]thiazol-2-yl]-1-methyl-1-carbapen-2-em-3-carboxylate | 435 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=C(C3)CO)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C29H25N5O8S
